US09126956B2
1I: (2S,4R)-5-Biphenyl-4-yl-2-ethoxymethyl-2-methyl-4-[(1H-[1,2,3]triazole-4-carbonyl)amino]pentanoic Acid
1H-[1,2,3]Triazole-4-carboxylic acid and (2S,4R)-4-amino-5-biphenyl-4-yl-2-ethoxymethyl-2-methylpentanoic acid were reacted as described herein to yield the title compound (0.8 mg). MS m/z [M+H]+ calc'd for C24H28N4O4, 437.21. found 437.2.

reactant | 1H-[1,2,3]Triazole-4-carboxylic acid | N1N=NC(=C1)C(=O)O | C3H3N3O2
reactant | (2S,4R)-4-amino-5-biphenyl-4-yl-2-ethoxymethyl-2-methylpentanoic acid | N[C@@H](C[C@@](C(=O)O)(C)COCC)CC1=CC=C(C=C1)C1=CC=CC=C1 | C21H27NO3
product | (2S,4R)-5-Biphenyl-4-yl-2-ethoxymethyl-2-methyl-4-[(1H-[1,2,3]triazole-4-carbonyl)amino]pentanoic Acid | 0.8 mg | C1(=CC=C(C=C1)C[C@H](C[C@@](C(=O)O)(C)COCC)NC(=O)C=1N=NNC1)C1=CC=CC=C1 | C24H28N4O4
